US08629270B2
tert-Butyl 6a-isothiazol-5-yl-1-[(4-methoxyphenyl)methyl]-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate
tert-Butyl N-allyl-N-(2-isothiazol-5-yl-2-oxo-ethyl)carbamate (610.1 g, 2.16 mol) is dissolved in toluene (6.10 L) under an atmosphere of nitrogen. N-[(4-methoxyphenyl)methyl]hydroxylamine (532.68 g, 2.81 mol) is added followed by diisopropylethylamine (489.86 mL, 2.81 mol). Ti(OEt)4 (640.78 g, 2.81 mol) is added and the yellow reaction solution is heated to 100° C. with stirring for 2 hours. The reaction is cooled to room temperature and diluted with ethyl acetate (3.05 L). A solution of citric acid 50% w/w in water (5.49 L) is added. A solid precipitates which then re-dissolves on stirring. The biphasic mixture is separated and the aqueous layer is extracted with ethyl acetate (2×1 L). The combined organic layers are washed with water (2×2 L), brine, dried over Na2SO4, filtered, and concentrated to dryness. The residue is dissolved in ethyl acetate (3 L) and concentrated under reduced pressure again. The crude product is triturated in ethyl acetate (1.2 L) and isohexane (4.8 L) for 40 minutes. The suspension is filtered and washed with hexane (4 L). The solid is dried under vacuum for 3 hours and in a vacuum oven at 40° C. for 16 hours to give the title product (741.51 g, 82.2%). ES/MS (m/e): 418 (M+H). The mother liquor from the trituration is concentrated under reduced pressure to give a brown solid, which is re-crystallized from methanol (150 mL) to obtain a second crop of product as a off-white solid, (26.02 g, 62.32 mmol, 2.9% yield).

reactant | tert-Butyl N-allyl-N-(2-isothiazol-5-yl-2-oxo-ethyl)carbamate | 2.16 mol, 610.1 g | C(C=C)N(C(OC(C)(C)C)=O)CC(=O)C1=CC=NS1 | C13H18N2O3S
reactant | N-[(4-methoxyphenyl)methyl]hydroxylamine | 2.81 mol, 532.68 g | COC1=CC=C(C=C1)CNO | C8H11NO2
reactant | diisopropylethylamine | 2.81 mol, 489.86 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 6.10 L | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 3.05 L | C(C)(=O)OCC | C4H8O2
solvent | water | 5.49 L | O | H2O
product | tert-Butyl 6a-isothiazol-5-yl-1-[(4-methoxyphenyl)methyl]-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate | 741.51 g, 82.2% | S1N=CC=C1C12N(OCC1CN(C2)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)OC | C21H27N3O4S
